US07074794B2
Isonipecotamide (19.4 g) and triethylamine (42 mL) were dissolved in dichloromethane (500 mL), and benzyloxy chlorocarbonate (24 mL) was added thereto under ice-cooling. The mixture was stirred at room temperature for 18 hr. The reaction mixture was added to saturated aqueous sodium hydrogencarbonate solution, and the mixture was extracted with chloroform. The extract was dried and concentrated under reduced pressure to give 1-benzyloxycarbonyl-4-carbamoylpiperidine (33.3 g) as a white solid.

reactant | Isonipecotamide | 19.4 g | N1CCC(C(=O)N)CC1 | C6H12N2O
reactant | triethylamine | 42 mL | C(C)N(CC)CC | C6H15N
reactant | benzyloxy chlorocarbonate | 24 mL | C(OOCC1=CC=CC=C1)(=O)Cl | C8H7ClO3
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 500 mL | ClCCl | CH2Cl2
product | 1-benzyloxycarbonyl-4-carbamoylpiperidine | 33.3 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)C(N)=O | C14H18N2O3
